US06743608B2
2-Ethoxyethyl (2RS) 3-[4-(benzyloxy)phenyl]-2-ethoxypropanoate
The ester can be prepared by acid catalysed esterification of 3-[4-(benzyloxy)phenyl]-2-ethoxypropanoic acid with/in 2-ethoxyethanol. Isocratic HPLC method 2 (4.34 min.): 97.6%.

reactant | 3-[4-(benzyloxy)phenyl]-2-ethoxypropanoic acid | C(C1=CC=CC=C1)OC1=CC=C(C=C1)CC(C(=O)O)OCC | C18H20O4
solvent | 2-ethoxyethanol | C(C)OCCO | C4H10O2
product | 2-Ethoxyethyl (2RS) 3-[4-(benzyloxy)phenyl]-2-ethoxypropanoate | C(C1=CC=CC=C1)OC1=CC=C(C=C1)CC(C(=O)OCCOCC)OCC | C22H28O5
